US05166205
Under reflux, for 20 minutes is heated a solution of 1.28 g (3.96 mmoles) of 1-(4-aminobutyl)-4-diphenylmethylpiperazine and 0.77 g (5.8 mmoles) of 2.5-dimethoxytetrahydrofurane in 25 ml of acetic acid. It is cooled, it is poured over ice water, neutralized with NaCHO3 and extracted with chloroform. It is dried with Na2SO4, and evaporated under vacuum to dryness. 1.7 g of crude oil is obtained which is purified on a silica chromatographic column (eluant: ethyl acetate). 0.95 g of 1-[4-(4-Diphenylmethyl-1-piperazinyl)butyl]pyrrole is obtained in solid form, with a melting point 80°-84° C.

reactant | 1-(4-aminobutyl)-4-diphenylmethylpiperazine | 3.96 mmoles, 1.28 g | NCCCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C21H29N3
reactant | 2.5-dimethoxytetrahydrofurane | 5.8 mmoles, 0.77 g | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 1-[4-(4-Diphenylmethyl-1-piperazinyl)butyl]pyrrole | 0.95 g | C1(=CC=CC=C1)C(N1CCN(CC1)CCCCN1C=CC=C1)C1=CC=CC=C1 | C25H31N3
